US09353096B2
In a 250 mL round-bottomed flask, 2-nitro-1-(6-(trifluoromethyl)pyridin-3-yl)ethanol (2.4 g, 10.2 mmol) was combined with THF (40 ml) and methanol (40.0 ml) to give a colorless solution and placed under N2 atmosphere. 360 mg of 10% Pd/C was added. Ammonium formate (3.2 g, 50.8 mmol) was added. The reaction mixture was stirred at room temperature overnight. Complete by LCMS. The reaction mixture was purged with N2 and then filtered through Celite. The Celite filtercake was washed several times with methanol. The combined washes and filtrate was concentrated in vacuo. The residue was taken up in dichloromethane/0.01% NaOH and extracted 5 times with dichloromethane. The organic layers were dried over Na2SO4 and concentrated in vacuo. Product was still present in the aqueous phase so saturated NaCl was added to the aqueous phase and the aqueous phase was extracted 3 times with dichloromethane. The organic layers were dried over Na2SO4 and concentrated in vacuo. The combine product as a pale yellow solid was triturated with ether to get an off-white powder which was washed twice with ether/hexanes to afford 2-amino-1-(6-(trifluoromethyl)pyridin-3-yl)ethanol (1.05 g). (M+H)+=207 m/e. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 2.76 (dd, J=12.84, 7.93 Hz, 1H) 3.15 (dd, J=12.84, 3.78 Hz, 1H) 4.75 (dd, J=8.12, 3.97 Hz, 1H) 7.69 (d, J=8.31 Hz, 1H) 7.93 (dd, J=8.12, 1.70 Hz, 1H) 8.71 (d, J=1.51 Hz, 1H).

reactant | 2-nitro-1-(6-(trifluoromethyl)pyridin-3-yl)ethanol | 10.2 mmol, 2.4 g | [N+](=O)([O-])CC(O)C=1C=NC(=CC1)C(F)(F)F | C8H7F3N2O3
reactant | THF | 40 ml | C1CCOC1 | C4H8O
reactant | Ammonium formate | 50.8 mmol, 3.2 g | C(=O)[O-].[NH4+]
catalyst | Pd/C | 360 mg | [Pd] | Pd
solvent | methanol | 40.0 ml | CO | CH4O
product | 2-amino-1-(6-(trifluoromethyl)pyridin-3-yl)ethanol | 1.05 g | NCC(O)C=1C=NC(=CC1)C(F)(F)F | C8H9F3N2O
